US04916137
A mixture of 7-(3-methylphenyl)pyrazolo[1,5-a]-pyrimidine-3-carbonitrile (prepared as described in Example 7 of U.S. Pat. No. 4,236,005) and concentrated sulfuric acid is stirred at room temperature for 16 hours. The solution is then carefully poured into ice with stirring and mixture is carefully made just basic with concentrated ammonium hydroxide. The solid is collected by filtration to give 7-(3-methylphenyl) pyrazolo[1,5-a]pyrimidine-3-carboxamide.

reactant | 7-(3-methylphenyl)pyrazolo[1,5-a]-pyrimidine-3-carbonitrile | CC=1C=C(C=CC1)C1=CC=NC=2N1N=CC2C#N | C14H10N4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 7-(3-methylphenyl) pyrazolo[1,5-a]pyrimidine-3-carboxamide | CC=1C=C(C=CC1)C1=CC=NC=2N1N=CC2C(=O)N | C14H12N4O
